US07772245B2
To a solution of methyl-2-(8-nitro-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate (0.5 g, 1.41 mmol) in methanol (50 mL) was added Raney Nickel (0.3 g). The reaction mixture was evacuated and stirred at rt under hydrogen atmosphere over night. The progress of the reaction was monitored by TLC and upon completion of the reaction, the mixture was filtered through celite under nitrogen atmosphere and washed with methanol (2×30 mL). The methanol was removed under reduced pressure to give crude residue which was purified by column chromatography to give the methyl-2-(8-amino-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate (0.2 g, 43.9%); (Rt=12.46).

reactant | methyl-2-(8-nitro-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate | 1.41 mmol, 0.5 g | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=CC(=CC23)[N+](=O)[O-])CC1 | C17H15N5O4
solvent | methanol | 50 mL | CO | CH4O
catalyst | Raney Nickel | 0.3 g | [Ni] | Ni
product | methyl-2-(8-amino-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate | 0.2 g, 43.9% | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=CC(=CC23)N)CC1 | C17H17N5O2
